US06353136B1
30 mmol of 2,5-diphenyl-3-chlorofuran (7.64 g), 32 mmol of freshly distilled piperidine (3.0 g), 32 mmol of KOtBu (3.6 g), 2 mmol of lithium chloride (42.5 mg) and 44 mg of trans-di-μ-acetatobis[2-[bis(1,1-dimethylethyl)phosphino]-2-methylpropyl-C,P]dipalladium(II) (0.2 mol %) are suspended in 50 ml of THF and placed in a pressure tube under protective gas. After 12 hours at 110° C., the tube is cooled to room temperature, the salts are filtered off and washed with petroleum ether. The solvents are removed from the filtrate on a rotary evaporator. Crystallization from 96% strength ethanol gives 2,5-diphenyl-3-piperidinofuran as a colorless solid; yield: 84%; melting point: 103° C.

reactant | 2,5-diphenyl-3-chlorofuran | 30 mmol, 7.64 g | C1(=CC=CC=C1)C=1OC(=CC1Cl)C1=CC=CC=C1 | C16H11ClO
reactant | piperidine | 3.0 g | N1CCCCC1 | C5H11N
reactant | KOtBu | 32 mmol, 3.6 g | CC(C)(C)[O-].[K+]
reactant | lithium chloride | 2 mmol, 42.5 mg | [Cl-].[Li+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2,5-diphenyl-3-piperidinofuran | yield: 84% | C1(=CC=CC=C1)C=1OC(=CC1N1CCCCC1)C1=CC=CC=C1 | C21H21NO
